US08030504B2
3-Bromo-N-(3-(trifluoromethyl)phenyl)propanamide
3-(Trifluoromethyl)aniline (Aldrich, 16.11 g, 100 mmol) was added to a suspension of potassium carbonate (27.64 g, 200 mmol) in dichloromethane (225 mL) followed by the addition of 3-bromopropionyl chloride (10.08 mL, 100 mmol) in dichloromethane (40 mL). The mixture was stirred for 4 hours at ambient temperature, quenched with water (200 mL), the organic layer was washed twice with water (200 mL), dried over sodium sulfate, filtered through a silica gel plug, and rinsed with 1:1 ethyl acetate:hexane (400 mL), and concentrated under reduced pressure to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.99 (t, J=6.27 Hz, 2H), 3.74 (t, J=6.44 Hz, 2H), 7.41 (d, J=7.80 Hz, 1H), 7.56 (t, J=7.97 Hz, 1H), 7.77 (d, J=8.48 Hz, 1H), 8.11 (s, 1H), 10.39 (s, 1H). MS (DCI) m/z 312.99 (M+NH4)+.

reactant | 3-(Trifluoromethyl)aniline | 100 mmol, 16.11 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | potassium carbonate | 200 mmol, 27.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropionyl chloride | 100 mmol, 10.08 mL | BrCCC(=O)Cl | C3H4BrClO
solvent | dichloromethane | 225 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-Bromo-N-(3-(trifluoromethyl)phenyl)propanamide | BrCCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C10H9BrF3NO
